US09145415B2
To a solution of 4-chloro-2-(methylthio)pyrimidine-5-carboxylic acid ethyl ester (5.0 g) in tetrahydrofuran (50 mL) and N,N-dimethylformamide (5 mL), benzyl alcohol (2.66 mL) and sodium hydride (60% wt, 946 mg) were added under ice cooling, and the mixture was stirred at the same temperature for 2 hours. To the reaction mixture, saturated aqueous sodium hydrogencarbonate and ethyl acetate were added. The organic layer was separated, washed successively with water and saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain oily ethyl 4-(benzyloxy)-2-(methylthio)pyrimidine-5-carboxylate (S25, 5.37 g).

reactant | 4-chloro-2-(methylthio)pyrimidine-5-carboxylic acid ethyl ester | 5.0 g | C(C)OC(=O)C=1C(=NC(=NC1)SC)Cl | C8H9ClN2O2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | benzyl alcohol | 2.66 mL | C(C1=CC=CC=C1)O | C7H8O
solvent | sodium hydride | [H-].[Na+]
product | ethyl 4-(benzyloxy)-2-(methylthio)pyrimidine-5-carboxylate | 5.37 g | C(C1=CC=CC=C1)OC1=NC(=NC=C1C(=O)OCC)SC | C15H16N2O3S
